US04211772
15 grams of rutin are dissolved in 60 cc of dimethylformamide. After addition of 100 cc of acetone, 15 cc of methyl chloroformate are added dropwise while agitating the mixture. Since the reaction is exothermic, the mixture is maintained at ambient temperature with cooling. At the end of 6 hours, the mixture is evaporated under vacuum. The residue is taken up in 500 cc of water. The solution is extracted with ether. The residual aqueous phase is extracted with ethyl acetate. After evaporation of the organic phase, about 10 grams of rutin acetonide is obtained, which can then be recrystallized.

reactant | rutin | 15 grams | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=C(OC=4C=C(C=C(C4C3=O)O)O)C=5C=CC(=C(C5)O)O)O)O)O)O)O)O | C27H30O16
reactant | acetone | 100 cc | CC(=O)C | C3H6O
reactant | methyl chloroformate | 15 cc | ClC(=O)OC | C2H3ClO2
solvent | dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
product | rutin acetonide | about 10 grams | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=C(OC=4C=C(C=C(C4C3=O)O)O)C=5C=CC(=C(C5)O)O)O)O)O)O)O)O.[CH2-]C(=O)C | InChI=1S/C27H30O16.C3H5O/c1-8-17(32)20(35)22(37)26(40-8)39-7-15-18(33)21(36)23(38)27(42-15)43-25-19(34)16-13(31)5-10(28)6-14(16)41-24(25)9-2-3-11(29)12(30)4-9;1-3(2)4/h2-6,8,15,17-18,20-23,26-33,35-38H,7H2,1H3;1H2,2H3/q;-1/t8-,15+,17-,18+,20+,21-,22+,23+,26+,27-;/m0./s1
